US07750003B2
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-[(4-methyl-1,3-thiazol-2-yl)sulfonylmethyl]pyrimidine
To a cooled (ice/water bath) solution of 2,4-dichloro-6-[(4-methyl-1,3-thiazol-2-yl)sulfonylmethyl]pyrimidine (901 mg, 2.78 mmol) in DCM (12 mL) was added triethylamine (0.45 mL, 3.23 mmol). The resulting solution was treated dropwise, over 3 minutes, with a solution of (3S)-3-methylmorpholine (319 mg, 3.15 mmol) in DCM (2.5 mL). The reaction mixture was stirred, under nitrogen for 24 hours, allowing reaction to warm to RT. Water (20 mL) was added to reaction mixture and stirred for 15 minutes. The organic layer was then separated, dried (MgSO4) and evaporated to give crude product, which was purified by flash silica chromatography, elution gradient 25 to 75% ethyl acetate in isohexane, to give the desired material (615 mg).

reactant | 2,4-dichloro-6-[(4-methyl-1,3-thiazol-2-yl)sulfonylmethyl]pyrimidine | 2.78 mmol, 901 mg | ClC1=NC(=CC(=N1)Cl)CS(=O)(=O)C=1SC=C(N1)C | C9H7Cl2N3O2S2
reactant | triethylamine | 3.23 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-methylmorpholine | 3.15 mmol, 319 mg | C[C@@H]1NCCOC1 | C5H11NO
reactant | Water | 20 mL | O | H2O
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-[(4-methyl-1,3-thiazol-2-yl)sulfonylmethyl]pyrimidine | 615 mg | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C=1SC=C(N1)C | C14H17ClN4O3S2
